US04740611
0.35 mol disphogene is added dropwise over 1 hour to a mixture of 0.28 mol of the methyl ester of O-acetylthreonine and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is re-dissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the filtrate is fractionally distilled to give O-acetylthreonine methyl ester isocyanate.

reactant | O-acetylthreonine | C(C)(=O)O[C@@H]([C@H](N)C(=O)O)C | C6H11NO4
reactant | charcoal | C | CH4
reactant | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | O-acetylthreonine methyl ester isocyanate | [N-]=C=O.COC([C@@H](N)[C@H](OC(C)=O)C)=O | InChI=1S/C7H13NO4.CNO/c1-4(12-5(2)9)6(8)7(10)11-3;2-1-3/h4,6H,8H2,1-3H3;/q;-1/t4-,6+;/m1./s1
